US07501410B2
4-Bromo-2-isopropyl-7-[methyl-(2-methylsulfanyl-ethyl)-amino]-2H-phthalazin-1-one:
4-Bromo-2-isopropyl-7-methylamino-2H-phthalazin-1-one (0.095 g, 0.32 mmol) was dissolved in DMF (5 ml). To this was added NaH (60%, 0.015 g, 0.38 mmol) as a suspension in DMF (2 ml). The mixture was stirred at RT for 30 min then chloroethyl methyl sulfide (0.042 g, 0.38 mmol) was added in one portion as a solution in DMF (1 ml) and the reaction mixture was heated to 70° C. for 24 hours. After this time, the reaction mixture was cooled to RT and water (10 ml) was added cautiously, the mixture was extracted with EtOAc (3×10 ml), the organic layers were combined, dried (MgSO4), filtered and concentrated under vacuum. Flash column chromatography (elution: 70% hexane, 30% EtOAc) gave the title compound (0.021 g, 18% yield) as a white solid. δH (400 MHz, CDCl3), 7.73 (1H, d), 7.48 (1H, d), 7.13 (1 H, d), 5.41-5.29 (1H, m), 3.71 (2H, t), 3.18 (3H, s), 3.15 (3H, s), 2.73 (2H, t), 1.41 (6H, d).

reactant | 4-Bromo-2-isopropyl-7-methylamino-2H-phthalazin-1-one | 0.32 mmol, 0.095 g | BrC1=NN(C(C2=CC(=CC=C12)NC)=O)C(C)C | C12H14BrN3O
reactant | NaH | 0.38 mmol, 0.015 g | [H-].[Na+]
reactant | chloroethyl methyl sulfide | 0.38 mmol, 0.042 g | CSCCCl | C3H7ClS
reactant | water | 10 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-Bromo-2-isopropyl-7-[methyl-(2-methylsulfanyl-ethyl)-amino]-2H-phthalazin-1-one | 0.021 g, 18% yield | BrC1=NN(C(C2=CC(=CC=C12)N(CCSC)C)=O)C(C)C | C15H20BrN3OS
